US06890947B2
In analogy to the procedure described in example 44, rac-2-ethoxy-3-(2-methyl-1H-indol-5-yl)-propionic acid ethyl ester (preparation 5) was reacted with methanesulfonic acid 3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl ester to give rac-2-ethoxy-3-{2-methyl-1-[3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl]-1H-indol-5-yl}-propionic acid as orange viscous oil.

reactant | rac-2-ethoxy-3-(2-methyl-1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C=C(NC2=CC1)C)OCC)=O | C16H21NO3
reactant | methanesulfonic acid 3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl ester | CC1=C(N=C(O1)C1=CC=CC=C1)CCCOS(=O)(=O)C | C14H17NO4S
product | rac-2-ethoxy-3-{2-methyl-1-[3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl]-1H-indol-5-yl}-propionic acid | C(C)OC(C(=O)O)CC=1C=C2C=C(N(C2=CC1)CCCC=1N=C(OC1C)C1=CC=CC=C1)C | C27H30N2O4
